US06117873
c) 7-Chloro-2,3-dimethoxy-5-methylquinoxaline
30 g (0.121 mol) of 2,3,7-trichloro-5-methylquinoxaline are introduced into 330 ml of methanol under argon at room temperature. 67.9 ml (0.364 mmol) of an about 5.4 molar solution of sodium methoxide in methanol is added dropwise to this and the mixture is stirred at reflux for 4.5 hours. After cooling to 0° C., the suspension is filtered off on a suction filter, and the filter residue is washed with methanol and dried in vacuo at 60° C. The title compound is obtained as brownish crystals of m.p. 94-96° C.

reactant | 2,3,7-trichloro-5-methylquinoxaline | 0.121 mol, 30 g | ClC1=NC2=CC(=CC(=C2N=C1Cl)C)Cl | C9H5Cl3N2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | methanol | 330 ml | CO | CH4O
product | 7-Chloro-2,3-dimethoxy-5-methylquinoxaline | ClC1=CC(=C2N=C(C(=NC2=C1)OC)OC)C | C11H11ClN2O2
